US07897621B2
d) 5-Bromo-6-(2,2,2-trifluoro-ethoxy)-2-trifluoromethyl-nicotinic acid ethyl ester
5-Bromo-1,6-dihydro-6-oxo-2-(trifluoromethyl)-3-pyridinecarboxylic acid ethyl ester (111 g, 0.35 mol) was dissolved in tetrahydrofuran (1600 mL). To the solution were added trifluoroethanol (38 mL, 0.53 mol), triphenylphosphine (117 g, 0.42 mol) and diisopropyl azodicarboxylate (89.4 mL, 0.42 mol) at 0° C. The mixture was stirred for 30 min at 0° C., for 1 h at room temperature and for 18 h at 50° C. The mixture was cooled, poured into n-heptane (3.8 L) and extracted with 80% methanol (2×3.8 L). The methanol phase was extracted with another 3.8 L of n-heptane, the n-heptane phases were combined and dried with MgSO4. The solvent was removed in vacuo to give the title compound (121.5 g) as yellowish oil.

reactant | 5-Bromo-1,6-dihydro-6-oxo-2-(trifluoromethyl)-3-pyridinecarboxylic acid ethyl ester | 0.35 mol, 111 g | C(C)OC(=O)C1=C(NC(C(=C1)Br)=O)C(F)(F)F | C9H7BrF3NO3
reactant | trifluoroethanol | 0.53 mol, 38 mL | C(C(F)(F)F)O | C2H3F3O
reactant | triphenylphosphine | 0.42 mol, 117 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diisopropyl azodicarboxylate | 0.42 mol, 89.4 mL | N(=NC(=O)OC(C)C)C(=O)OC(C)C | C8H14N2O4
solvent | tetrahydrofuran | 1600 mL | O1CCCC1 | C4H8O
solvent | n-heptane | 3.8 L | CCCCCCC | C7H16
product | 5-Bromo-6-(2,2,2-trifluoro-ethoxy)-2-trifluoromethyl-nicotinic acid ethyl ester | 121.5 g | C(C)OC(C1=C(N=C(C(=C1)Br)OCC(F)(F)F)C(F)(F)F)=O | C11H8BrF6NO3
